US07148174B2
(trans-N,N′-Bispyridin-2-ylmethylenecyclohexane-1 , 2-diamine)-nickel(II) bromide
In a baked Schlenk tube, 1.0 g (3.4 mmol) of trans-N,N′-bispyridin-2-ylmethylenecyclohexane-1,2-diamine are dissolved in 40 ml of THF and admixed with 1.04 g (3.4 mmol) of nickel(II) bromide*DME. After 0.2 h, the solution becomes dark. After stirring at room temperature for another 2 hours, the solvent is removed under reduced pressure and the residue is stirred with 10 ml of heptane. Filtration through a G3 frit gives the product as a dark blue solid in a yield of 1.32 g (2.58 mmol, 76%).

reactant | trans-N,N′-bispyridin-2-ylmethylenecyclohexane-1,2-diamine | 3.4 mmol, 1.0 g | N1=C(C=CC=C1)C=N[C@H]1[C@@H](CCCC1)N=CC1=NC=CC=C1 | C18H20N4
reactant | nickel(II) bromide | 3.4 mmol, 1.04 g | [Ni](Br)Br
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | (trans-N,N′-Bispyridin-2-ylmethylenecyclohexane-1 , 2-diamine)-nickel(II) bromide | [Ni](Br)Br.N1=C(C=CC=C1)C=N[C@H]1[C@@H](CCCC1)N=CC1=NC=CC=C1 | InChI=1S/C18H20N4.2BrH.Ni/c1-2-10-18(22-14-16-8-4-6-12-20-16)17(9-1)21-13-15-7-3-5-11-19-15;;;/h3-8,11-14,17-18H,1-2,9-10H2;2*1H;/q;;;+2/p-2/t17-,18-;;;/m1.../s1
